US05451563
Preparation of Example 11: 5-(Trimethylsilyl)pyrimidine Via Procedure A:
In a 500 ml 4 neck round bottom flask stirring under N2 was charged 1.2 g of Mg (0.050 moles, 1.0 eq) and 5.43 g of chlorotrimethylsilane (0.050 moles, 1.0 eq.) in 50 ml of HMPA (hexamethylphosphoramide) which was heated at 80° C. for 4 hours. To the reaction was added dropwise, 6.4 g of 5-bromopyrimidine (0.040 moles, 0.8 eq.) in 50 ml of HMPA while maintaining the temperature at 80° C. The reaction mixture was stirred for 18 hours at 75° C. after which GLC indicated complete consumption of the 5-bromopyrimidine. The reaction was quenched by adding 100 ml of water, acidified with 10% HCl and extracted with 2×250 ml of ethyl acetate (EtOAc). The acidic aqueous solution was neutralized with 6M NaOH to pH 10 and extracted with 250 ml of EtOAc. The extractions were combined and washed with 4×250 ml aliquots of distilled water. Drying and concentrating afforded 1.2 g of crude product which was purified by flash chromatography with 1:4 ethyl acetate/hexane and afforded 0.6 g of a clear oil (9.8% yield).

reactant | chlorotrimethylsilane | 0.050 moles, 5.43 g, 1.0 eq. | Cl[Si](C)(C)C | C3H9ClSi
reactant | 5-bromopyrimidine | 0.040 moles, 6.4 g, 0.8 eq. | BrC=1C=NC=NC1 | C4H3BrN2
solvent | HMPA | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | HMPA | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 5-(Trimethylsilyl)pyrimidine | 0.6 g, 9.8% yield | C[Si](C=1C=NC=NC1)(C)C | C7H12N2Si
